US07094929B2
N,N-Bis-(6-hydroxyhexyl)-aniline (1)
A mixture of 9.3 g (100 mmol) freshly distilled aniline, 30.0 g (220 mmol) 6-chloro-1-hexanol and 30.4 g (220 mmol) potassium carbonate were heated in 50 ml of n-butanol under reflux for 4 days. After cooling the solids were filtered of and the solvent is removed in vacuum. Purification by liquid chromatography (ethyl acetate/hexane 2:1) afforded 17.6 g (60%) of a colorless oil.1 H-NMR (400 MHz, CDCl3): δ=7.18 (m, 2H), 6.61 (m, 3H), 3.91 (t, J=6.4 Hz, 4H), 3.67 (t, J=6.4 Hz, 4H), 1.90–1.77 (m, 4H), 1.70–1.53 (m, 4H), 1.50–1.31 (m, 8H). 13C-NMR (100 MHz, CDCl3); 148.19, 129.31, 115.33, 111.86, 62.793, 51.06, 32.78, 27.30, 27.05, 25.76. EI-MS: 293 (M+), 206 (M+-C5H10OH), 120 (M+-2 C5H10OH). Calcd for C18H31NO2: C, 79.67; H, 10.65; N, 4.77; O, 10.90

reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | 6-chloro-1-hexanol | 220 mmol, 30.0 g | ClCCCCCCO | C6H13ClO
reactant | potassium carbonate | 220 mmol, 30.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | n-butanol | 50 ml | C(CCC)O | C4H10O
product | N,N-Bis-(6-hydroxyhexyl)-aniline | 17.6 g, 60% | OCCCCCCN(C1=CC=CC=C1)CCCCCCO | C18H31NO2
